US04931436
5,11-Dihydro-11-[[3-[4-(dimethylamino)butyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[4-(dimethylamino)butyl]piperidine in a yield of 69% of theory. Colourless crystals, m.p. 234°-235° C. (isopropanol).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[4-(dimethylamino)butyl]piperidine | CN(CCCCC1CNCCC1)C | C11H24N2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 5,11-Dihydro-11-[[3-[4-(dimethylamino)butyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 69% | Cl.CN(CCCCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)C | InChI=1S/C24H31N5O2.ClH/c1-27(2)15-6-5-9-18-10-8-16-28(17-18)24(31)29-21-13-4-3-11-19(21)23(30)26-20-12-7-14-25-22(20)29;/h3-4,7,11-14,18H,5-6,8-10,15-17H2,1-2H3,(H,26,30);1H
